US05686442
A 1N aqueous sodium hydroxide solution (1.1 ml) was added to a solution of ethyl 1-(4-methoxybenzyl)-4(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylate (b-1) (243 mg, 0.535 mmole) obtained in the preceding step (b) in tetrahydrofuran (6 ml), and the mixture was stirred at room temperature for 4 hours. The reaction mixture was diluted with ether, and water was added. The aqueous layer was acidified with hydrochloric acid, it was extracted with ethyl acetate, and washed with water and a saturated aqueous saline. After the organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure to give 1-(4-methoxybenzyl)-4(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylic acid (c-1': LP) as a pale yellow crystalline powder (204 mg, 89%). Next, 1-(4-methoxybenzyl)-4-(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylic acid (c-1': LP) (200 mg, 0.469 mmole) thus obtained was dissolved in a mixed solvent of ethanol (12 ml) and ethyl acetate

reactant | sodium hydroxide | 1N, 1.1 ml | [OH-].[Na+]
reactant | ethyl 1-(4-methoxybenzyl)-4(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylate | 0.535 mmole, 243 mg | COC1=CC=C(CN2N=NC(=C2C(=O)OCC)C(C2=C(C=C(C(=C2)OC)C)[N+](=O)[O-])=O)C=C1 | C22H22N4O7
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 1-(4-methoxybenzyl)-4(5-methoxy-4-methyl-2-nitrobenzoyl)-1,2,3-triazole-5-carboxylic acid | COC1=CC=C(CN2N=NC(=C2C(=O)O)C(C2=C(C=C(C(=C2)OC)C)[N+](=O)[O-])=O)C=C1 | C20H18N4O7
